US06235778B1
e) 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride
To a solution of 3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyamine (362 mg, 1.0 mmol), as prepared in the preceding step, in N,N-dimethylformamide (10 mL) was added 1H-pyrazole-carboxamidine hydrochloride (590 mg, 4.0 mmol). The reaction mixture was stirred at ambient temperature for two days. N,N-Dimethylformamide was removed under high vacuum. Acetonitrile (10 mL) was added, the solid was removed by filtration, the filtrate was concentrated in vacuo, and the residue was dried under high vacuum. The residue was partitioned between water (30 mL plus 2 mL brine) and diethyl ether (20 mL). The water solution was extracted with diethyl ether (20 mL), and the combined diethyl ether extracts were extracted with acidic water (pH 5). The combined water solutions were adjusted to pH 8-9 by using 2N NaOH and extracted with ethyl acetate (3×50 mL). The ethyl acetate solution was washed with pH 7 buffer solution (2×30 mL) and brine (30 mL) and dried over Na2SO4. After removing the solvent, 0.6N HCl methanol (10 mL) was added, and the solution was concentrated to give the title compound as a colorless oil (340 mg, 77%). 1H-NMR (300 MHz, DMSO-d6) δ8.30 (d, J=7.5 Hz, 1H), 8.09 (t, J=7.5 Hz, 1H), 8.04 (m, 2H), 7.72 (br s, 5H), 6.79 (s, 1H), 6.49 (s, 1H), 6.47 (s, 1H), 3.99 (t, J=6.2 Hz, 2H), 3.90 (t, J=6.3 Hz, 2H), 2.22 (s, 3H), 2.01 (m, 2H). Mass spectrum (MALDI-TOF, (α-cyano-4-hydroxycinnamic acid matrix) calcd. for C18H20N4O5S: 405.1 (M+H), 427.1 (M+Na). Found: 405.1, 427.0.

reactant | 3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyamine | 1.0 mmol, 362 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C17H18N2O5S
reactant | 1H-pyrazole-carboxamidine hydrochloride | 4.0 mmol, 590 mg | Cl.N1N=C(C=C1)C(=N)N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride | 340 mg, 77% | Cl.C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCONC(=N)N)C=C(C1)C | InChI=1S/C18H20N4O5S.ClH/c1-13-9-15(25-7-4-8-26-22-18(20)21)11-16(10-13)27-28(23,24)17-6-3-2-5-14(17)12-19;/h2-3,5-6,9-11H,4,7-8H2,1H3,(H4,20,21,22);1H
